US07317025B2
3-Phenyl-propynoic acid(1-acetyl-2,3-dihydro-1H-indol-6-yl)-(1-benzyl-piperidin-4-yl)-amide
A mixture of phenyl-propynoic acid (220 mg, 1.5 mmol) and thionyl chloride (3.0 mL) in toluene (3.0 mL) was heated at reflux for 4 h. The reaction mixture was cooled to rt and the excess thionyl chloride and toluene were removed under reduced pressure. The resulting crude acid chloride was dissolved in CH2Cl2 (5 mL) and treated with 1-[6-(1-benzyl-piperidin-4-ylamino)-2,3-dihydro-indol-1-yl]-ethanone (349 mg, 1.0 mmol) and TEA (0.28 mL, 2.0 mmol) at rt for 20 h. The reaction mixture was concentrated, and the residue was purified on silica gel (60-70% EtOAc/hexanes) to afford the title compound (402 mg, 84%). 1H NMR (500 MHz, CDCl3): 8.12 (s, 1H), 7.28-7.18 (m, 9H), 7.09 (d, J=7.8 Hz, 2H), 6.86 (dd, J=8.0, 1.7 Hz, 1H), 4.65-4.59 (m, 1H), 4.13 (t, J=8.5 Hz, 2H) 3.44 (s, 2H), 3.24 (t, J=8.5 Hz, 2H), 2.89 (d, J=10.7 Hz, 2H), 2.22 (s, 3H), 2.10 (t, J=10.8 Hz, 2H), 1.90-1.78 (m, 2H), 1.63-1.58 (m, 2H). MS: exact mass calculated for C31H31N3O2, 477.24; m/z found, 478.3 [M+H]+.

reactant | phenyl-propynoic acid | 1.5 mmol, 220 mg | C1(=CC=CC=C1)C#CC(=O)O | C9H6O2
reactant | thionyl chloride | 3.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-[6-(1-benzyl-piperidin-4-ylamino)-2,3-dihydro-indol-1-yl]-ethanone | 1.0 mmol, 349 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C2CCN(C2=C1)C(C)=O | C22H27N3O
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Phenyl-propynoic acid(1-acetyl-2,3-dihydro-1H-indol-6-yl)-(1-benzyl-piperidin-4-yl)-amide | 402 mg, 84% | C(C)(=O)N1CCC2=CC=C(C=C12)N(C(C#CC1=CC=CC=C1)=O)C1CCN(CC1)CC1=CC=CC=C1 | C31H31N3O2
